US09428469B2
tert-butyl 4-((3-(2-chloro-4′-(isopropylsulfonyl)-6-(trifluoromethyl)biphenyl-4-ylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzoate (Compound 24)
To a solution of N3-(2-chloro-4′-(isopropylsulfonyl)-6-(trifluoromethyl)biphenyl-4-yl)-1H-1,2,4-triazole-3,5-diamine (135 mg, 294 μmol) in MeOH (3.5 ml) was added tert-butyl 4-formylbenzoate (85 mg, 412 μmol) followed by acetic acid (52.4 mg, 50 μl, 873 μmol). The reaction was stirred at room temperature for 15 minutes, 2-picoline borane complex (42.4 mg, 396 μmol) was added and the stirring was continued for 3 days. The reaction mixture was poured into 0.1N HCl solution (20 ml) and the resulting suspension was filtered to collect the solid. The crude material was purified by flash chromatography (silica gel, 24 g, 3% to 5% MeOH in DCM) to afford a white solid as desired product (94 mg, 49% yield). MS +m/z: 650 (M+H)+

reactant | N3-(2-chloro-4′-(isopropylsulfonyl)-6-(trifluoromethyl)biphenyl-4-yl)-1H-1,2,4-triazole-3,5-diamine | 294 μmol, 135 mg | ClC1=C(C(=CC(=C1)NC1=NNC(=N1)N)C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C18H17ClF3N5O2S
reactant | tert-butyl 4-formylbenzoate | 412 μmol, 85 mg | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
reactant | acetic acid | 873 μmol, 50 μl, 52.4 mg | C(C)(=O)O | C2H4O2
reactant | HCl | 0.1N, 20 ml | Cl | ClH
solvent | MeOH | 3.5 ml | CO | CH4O
product | tert-butyl 4-((3-(2-chloro-4′-(isopropylsulfonyl)-6-(trifluoromethyl)biphenyl-4-ylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzoate | 94 mg, 49% yield | ClC1=C(C(=CC(=C1)NC1=NNC(=N1)NCC1=CC=C(C(=O)OC(C)(C)C)C=C1)C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C30H31ClF3N5O4S
